US06479524B1
a. 4-bromo-2,5-dimethyl-1-isopropylcarbonyl-benzene
31.2 ml of (50 mmol) of a 1.6 molar n-butyl lithium solution in hexane are added dropwise to a solution of 13.5 g (50 mmol) of 2,5-dibromo-p-xylene in 100 ml of tetrahydrofuran cooled to −78° C., the mixture is stirred for 30 minutes and then combined with 4.5 ml of (50 mmol) of isobutyronitrile. The reaction mixture is allowed to come back slowly to ambient temperature, stirred for 1 hour, then combined with 50 ml of 2N HCl and 70 ml of diethyl ether and stirred for another 16 hours. The aqueous phase is separated off and extracted 2× with diethyl ether. The combined organic phases are dried with Na2SO4, evaporated down and the residue is purified by flash chromatography (silica gel; petroleum ether to petroleum ether/ethyl acetate=9:1).

reactant | n-butyl lithium | 1.6 molar | C(CCC)[Li]
reactant | 2,5-dibromo-p-xylene | 50 mmol, 13.5 g | BrC1=C(C=C(C(=C1)C)Br)C | C8H8Br2
reactant | isobutyronitrile | 50 mmol, 4.5 ml | C(C(C)C)#N | C4H7N
reactant | HCl | 2N, 50 ml | Cl | ClH
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | 4-bromo-2,5-dimethyl-1-isopropylcarbonyl-benzene | BrC1=CC(=C(C=C1C)C(=O)C(C)C)C | C12H15BrO
